US04865619
Preparation of 2,4-diamino-1,3-dimethoxybenzene dihydrochloride
A mixture consisting of 77 g of ammonium acetate, 42 g of palladium on charcoal (10% palladium) and 0.25 mole (69 g) of 2,4-dimethoxy-3,5-diaminochlorobenzene dihydrochloride in 420 ml of ethanol to which 50 ml of water have been added is heated to 75° C. with stirring. 75 g of triethylamine are added, followed, dropwise, by 31 g of formic acid. After a further 30 minutes' heating, the reaction medium is filtered hot. The filtrate is evaporated to dryness. On addition of ethyl acetate, the inorganic salts are precipitated, and these are removed by filtration with suction. To the filtrate, dried over sodium sulphate, 100 ml of a 7N alcoholic solution of hydrochloric acid are added. The expected product precipitates, and is recrystallized from a mixture of water and a solution of hydrochloric acid in ethanol.

reactant | ammonium acetate | 77 g | C(C)(=O)[O-].[NH4+]
reactant | 2,4-dimethoxy-3,5-diaminochlorobenzene dihydrochloride | 0.25 mole, 69 g | Cl.Cl.COC1=C(C=C(C(=C1N)OC)N)Cl
reactant | water | 50 ml | O | H2O
reactant | triethylamine | 75 g | C(C)N(CC)CC | C6H15N
catalyst | palladium on charcoal | 42 g | [Pd] | Pd
solvent | ethanol | 420 ml | C(C)O | C2H6O
solvent | formic acid | 31 g | C(=O)O | CH2O2
product | 2,4-diamino-1,3-dimethoxybenzene dihydrochloride | Cl.Cl.NC1=C(C=CC(=C1OC)N)OC | InChI=1S/C8H12N2O2.2ClH/c1-11-6-4-3-5(9)8(12-2)7(6)10;;/h3-4H,9-10H2,1-2H3;2*1H
